US08110688B2
Synthesis of 4-(2-dimethylaminovinyl)-N-methyl-3-nitrobenzamide
1.65 g (8.49 mmol) of N-methyl-4-methyl-3-nitrobenzamide was dissolved into 9.9 mL of DMF and 6.49 g (50.90 mmol) of N,N-dimethylformamide dimethylacetal was added dropwise to this solution under a nitrogen atmosphere at room temperature, and the reaction mixture was heated and stirred at 80° C. for 46 hours.

reactant | N-methyl-4-methyl-3-nitrobenzamide | 8.49 mmol, 1.65 g | CNC(C1=CC(=C(C=C1)C)[N+](=O)[O-])=O | C9H10N2O3
reactant | N,N-dimethylformamide dimethylacetal | 50.90 mmol, 6.49 g | COC(N(C)C)OC | C5H13NO2
solvent | DMF | 9.9 mL | CN(C)C=O | C3H7NO
product | 4-(2-dimethylaminovinyl)-N-methyl-3-nitrobenzamide | CN(C=CC1=C(C=C(C(=O)NC)C=C1)[N+](=O)[O-])C | C12H15N3O3
